US07125896B2
b) 5-Bromo-2-(1-methoxyethylpiperidin-4-yloxy)-pyridine
5-Bromo-2-(piperidin-4-yloxy)pyridine trifluoroacetate (0.86 g) was stirred with potassium carbonate (0.838 g) in dimethylacetamide (5 ml). Bromoethyl methyl ether (0.342 ml) was is added and the mixture was heated at 80° C. for 20 minutes. After cooling the mixture was poured into water (30 ml) and extracted three times with ether. The combined extracts were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography eluting with 0 to 2% 2M methanolic ammonia in dichloromethane to give the product as a colourless oil (0.71 g).

reactant | 5-Bromo-2-(piperidin-4-yloxy)pyridine trifluoroacetate | 0.86 g | FC(C(=O)O)(F)F.BrC=1C=CC(=NC1)OC1CCNCC1
reactant | potassium carbonate | 0.838 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromoethyl methyl ether | 0.342 ml | COCCBr | C3H7BrO
reactant | water | 30 ml | O | H2O
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 5-Bromo-2-(1-methoxyethylpiperidin-4-yloxy)-pyridine | 0.71 g | BrC=1C=CC(=NC1)OC1CCN(CC1)C(C)OC | C13H19BrN2O2
